US08106064B2
3-(5-Dimethylamino-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (165):
To a solution of 3-[cyano-(5-dimethylamino-2,6-dimethoxy-pyrimidin-4-yl)-methyl]-5-methyl-benzonitrile (0.0872 g, 0.258 mmol) in DMF (1.0 mL) was added 60% sodium hydride (0.0114 g, 0.284 mmol) and stirred for 30 min. Oxygen was bubbled into reaction mixture overnight. The reaction was quenched with saturated ammonium chloride solution. The pH was adjusted to ˜6.0 with 1N HCl and mixture was extracted with ethyl acetate. The organic layer was washed with water (2×), dried (MgSO4) and concentrated to give a yellow solid (0.0834 g, 99%). 1H NMR (300 MHz, CDCl3): δ 7.91 (s, 1H), 7.85 (s, 1H), 7.64 (s, 1H), 4.08 (s, 3H), 3.93 (s, 3H), 2.53 (s, 6H), 2.44 (s, 3H). Mass spectrum: 327.2 (M+H)+.

reactant | 3-[cyano-(5-dimethylamino-2,6-dimethoxy-pyrimidin-4-yl)-methyl]-5-methyl-benzonitrile | 0.258 mmol, 0.0872 g | C(#N)C(C=1C=C(C#N)C=C(C1)C)C1=NC(=NC(=C1N(C)C)OC)OC | C18H19N5O2
reactant | sodium hydride | 0.284 mmol, 0.0114 g | [H-].[Na+]
reactant | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 3-(5-Dimethylamino-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 0.0834 g, 99% | CN(C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C#N)C=C(C1)C)C | C17H18N4O3
